US08975418B2
To a jacketed reactor, acetic acid (450 mL) and acetic anhydride (225 mL) is charged at 10° C. Then, to the above mixture, NalO4 powder (97.2 g) and Iodine (77.2 g) is added under stirring. While keep internal temperature at below 30° C., conc. H2SO4 (720 mL) is added dropwise. Then, 2-chloro-nitrobenzene (Rt=11.11 min) is added in one portion, and heat the mixture gradually to 64° C. The resulting mixture continues to be stirred for usually at least 2 hours until process monitor shows almost complete conversion. Then, the mixture is cooled down to room temperature, and transferred slowly into another jacketed reactor with pre-cooled cold Na2SO3 solution (250 g Na2SO3 in 2000 mL water). Collect the wet cake by filtration and wash the cake with water (450 mL×2), then purification of the cake with n-heptane crystallization to afford 2-chloro-5-iodonitrobenzene in 62% yield and 98% HPLC purity (Rt=15.75 min).

reactant | acetic anhydride | 225 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Iodine | 77.2 g | II | I2
reactant | H2SO4 | 720 mL | OS(=O)(=O)O | H2O4S
reactant | 2-chloro-nitrobenzene | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | Na2SO3 | 2000 mL, 250 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 450 mL | C(C)(=O)O | C2H4O2
product | 2-chloro-5-iodonitrobenzene | 62% yield | ClC1=C(C=C(C=C1)I)[N+](=O)[O-] | C6H3ClINO2
